US05616599
76(a) 4-Isobutyryl-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carbonitrile
Following a procedure similar to that described in Example 74(a), but using 0.97 g of 4-isobutyryl-2-propylimidazole-5-carbonitrile (prepared as described in Preparation 39), 2.90 g of 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide and 0.56 g of potassium t-butoxide, 1.90 g of the title compound was obtained as crystals, melting at 133°-134° C.

reactant | 4-isobutyryl-2-propylimidazole-5-carbonitrile | 0.97 g | C(C(C)C)(=O)C=1N=C(NC1C#N)CCC | C11H15N3O
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 2.90 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
reactant | potassium t-butoxide | 0.56 g | CC(C)([O-])C.[K+]
product | 4-Isobutyryl-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carbonitrile | 1.90 g | C(C(C)C)(=O)C=1N=C(N(C1C#N)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C44H39N7O
